US07576108B2
a: (E)-4-(2-Cyclohexyl-1-hydroxymethyl-vinyl)-benzoic acid methyl ester
Following the method of example 46a, Suzuki coupling of 4-bromo-benzoic acid methyl ester (1.05 g, 4.88 mmol) with (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (1.48 g, 5.56 mmol) in the presence of tetrakis(triphenylphosphino)palladium(0) (0.35 g, 0.30 mmol) and cesium fluoride (2.1 g, 14 mmol) in dioxane (15 mL) gives the title compound (1.0 g). MS (m/e): 275 (M+H).

reactant | 4-bromo-benzoic acid methyl ester | 4.88 mmol, 1.05 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 5.56 mmol, 1.48 g | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | cesium fluoride | 14 mmol, 2.1 g | [F-].[Cs+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.30 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-4-(2-Cyclohexyl-1-hydroxymethyl-vinyl)-benzoic acid methyl ester | 1.0 g | COC(C1=CC=C(C=C1)/C(=C\C1CCCCC1)/CO)=O | C17H22O3
